US04841009
Preparation of p-Bromomethylphenyl Acetate
Into a reaction flask equipped with a mechanical stirrer, thermometer and reflux apparatus was charged 75 grams (0.5 moles) of p-methylphenyl acetate prepared in Part A, 88 grams (0.5 moles) of N-bromosuccinimide, 300 milliliters of carbon tetrachloride and 1.0 gram of benzoyl peroxide. The resulting reaction mixture was carefully heated to 80° C. with a mantle, at which temperature, slight reflux ensued along with an exothermic reaction. Reflux was carefully maintained for 40 minutes and then 200 milliliters of carbon tetrachloride was gradually added to the reaction flask and the reaction mixture was then cooled to 25° C. (total time from onset of reflux was 50 minutes). The reaction mixture was filtered on a Buchner funnel and after the collected solid (succinimide) was washed four times with 100 milliliters of carbon tetrachloride, the total carbon tetrachloride solution (filtrate and washes) was stripped on a rotary evaporator. The resulting residue was distilled at reduced pressure (0.4 torr) to give a total of 92.8 grams of the desired product, whose nuclear magnetic resonance (NMR) spectrum was consistent with bromination of the aromatic methyl group: 2.13δ, singlet, CH3O; 4.28, singlet, BrCH2 --; and 6.97, quartet, aromatic protons.

reactant | p-methylphenyl acetate | 0.5 moles, 75 grams | C(C)(=O)OC1=CC=C(C=C1)C | C9H10O2
reactant | N-bromosuccinimide | 0.5 moles, 88 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 1.0 gram | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 200 milliliters | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 300 milliliters | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-Bromomethylphenyl Acetate | 92.8 grams | C(C)(=O)OC1=CC=C(C=C1)CBr | C9H9BrO2
